US04188326
4,5-Dihydro-4-oxo-5-phenylpyrano[3,2-b]indole-2-carboxylic acid.
A mixture of 1.0 g (0.0033 mole) of ethyl 4,5-dihydro-4-oxo-5-phenylpyrano[3,2-b]indole-2-carboxylate in 10 ml glacial acetic acid and 2.0 ml conc. hydrochloric acid was stirred at reflux for 41/2 hr, then cooled and added to 75 g ice--H2O. The solid was filtered, washed with cold water, then added to a mixture of 35 ml 5% aqueous sodium carbonate and 250 ml water. After filtering by gravity, the aqueous solution was washed three times with 75 ml chloroform, cooled in ice, and acidified with 4.0 N hydrochloric acid. The orange precipitate was filtered, digested 15 min on the steam bath with 25 ml water and re-filtered warm. Recrystallization from DMF-water yielded an off-white solid of mpt. >290°.

reactant | ethyl 4,5-dihydro-4-oxo-5-phenylpyrano[3,2-b]indole-2-carboxylate | 0.0033 mole, 1.0 g | O=C1C=C(OC2=C1N(C=1C=CC=CC21)C2=CC=CC=C2)C(=O)OCC | C20H15NO4
reactant | H2O | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 2.0 ml | Cl | ClH
product | 4,5-Dihydro-4-oxo-5-phenylpyrano[3,2-b]indole-2-carboxylic acid | O=C1C=C(OC2=C1N(C=1C=CC=CC21)C2=CC=CC=C2)C(=O)O | C18H11NO4
